US07973078B2
4.86 g of methyl 5-(hydroxymethyl)thiophene-3-carboxylate was dissolved in 50.0 mL of dichloromethane, and 4.12 mL of thionyl chloride was added thereto under ice-cooling, followed by stirring at room temperature for 15 hours. The reaction liquid was concentrated under reduced pressure, and to the obtained residue was added ethyl acetate, and then washed with an aqueous saturated sodium hydrogen carbonate solution and saturated brine. It was dried over anhydrous magnesium sulfate, and then the solvent was evaporated to obtain 4.90 g of methyl 5-(chloromethyl)thiophene-3-carboxylate.

reactant | methyl 5-(hydroxymethyl)thiophene-3-carboxylate | 4.86 g | OCC1=CC(=CS1)C(=O)OC | C7H8O3S
reactant | thionyl chloride | 4.12 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50.0 mL | ClCCl | CH2Cl2
product | methyl 5-(chloromethyl)thiophene-3-carboxylate | 4.90 g | ClCC1=CC(=CS1)C(=O)OC | C7H7ClO2S
